US09290451B2
c) 3-(1-Amino-1-methyl-ethyl)-4-methyl-4H-[1,2,4]oxadiazol-5-one hydrochloride (1:1)
To a solution of [1-methyl-1-(4-methyl-5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-ethyl]-carbamic acid tert-butyl ester (1.45 g, 5.64 mmol) in ethanol (15 mL) was added 4M-HCl in dioxane (5.64 mL, 22.5 mmol) and the reaction mixture was stirred at room temperature for 16 hours. The solution was concentrated in vacuo to a volume of 5 mL. With stirring diethyl ether (15 mL) was added drop by drop over a period of 30 minutes and stirring was continued for another 30 minutes. The precipitate was isolated by filtration, washed with diethyl ether (3×1 mL) and dried in vacuo, to give the title compound (1.0 g, 95%) as white solid; GC-MS (EI) 157.0 (M)+.

reactant | [1-methyl-1-(4-methyl-5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-ethyl]-carbamic acid tert-butyl ester | 5.64 mmol, 1.45 g | C(C)(C)(C)OC(NC(C)(C1=NOC(N1C)=O)C)=O | C11H19N3O4
reactant | HCl | Cl | ClH
reactant | dioxane | 22.5 mmol, 5.64 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(1-Amino-1-methyl-ethyl)-4-methyl-4H-[1,2,4]oxadiazol-5-one hydrochloride | 1.0 g, 95% | Cl.NC(C)(C)C1=NOC(N1C)=O | InChI=1S/C6H11N3O2.ClH/c1-6(2,7)4-8-11-5(10)9(4)3;/h7H2,1-3H3;1H
